data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_210092_0,[C:1](=[C:6]([C:4]([C:3]([H:16])([H:17])[H:18])([C:5](=[O:8])[H:11])[O:7][C:2]([H:13])([H:14])[H:15])[H:12])([H:9])[H:10]>>[C:1](/[C:6](=[C:4](/[C:3]([H:16])([H:17])[H:18])[C:5](=[O:8])[H:11])[H:12])([O:7][C:2]([H:13])([H:14])[H:15])([H:9])[H:10],51.20462750002176
MR_50613_0,[C:1](/[C:3]([C:2]([H:11])([H:12])[H:13])=[N:5]\[H:8])([N:4]([H:6])[H:7])([H:9])[H:10]>>[C:1]1([N:4]([H:6])[H:7])([H:9])[C:3]([C:2]([H:11])([H:12])[H:13])([H:10])[N:5]1[H:8],68.82859249998724
MR_422610_0,[C:1]([C:3]([N:5]([H:8])[H:9])=[C:6]([H:16])[H:17])(/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:7]\[H:10])([H:11])[H:12]>>[C:1](=[C:3]([N:5]([H:8])[H:9])[C:6](/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:7]\[H:10])([H:16])[H:17])([H:11])[H:12],72.35765250001236
MR_414505_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])(/[C:5](=[C:6](\[C:4]([H:17])([H:18])[H:19])[H:10])[H:9])[N:7][O:8]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])[C@:5]([N:7]=[O:8])([H:9])[C@:6]1([C:4]([H:17])([H:18])[H:19])[H:10],66.2715300000049
MR_130027_0,[C:1](=[C:5]([N:7]([N:3]([C:2]([H:14])([H:15])[H:16])[H:10])[C:4]([O:6][H:9])=[O:8])[H:13])([H:11])[H:12]>>[C:1]([C:4]([O:6][H:9])=[O:8])(/[C:5](=[N:7]/[N:3]([C:2]([H:14])([H:15])[H:16])[H:10])[H:13])([H:11])[H:12],63.30722000003419
MR_438671_0,[C:1](/[C:2]([N:3]([H:9])[H:10])=[C:5](/[N:4]([H:11])[H:12])[H:13])(=[C:6]([H:14])[H:15])[O:7][H:8]>>[C:1]1([O:7][H:8])=[C:2]([N:3]([H:9])[H:10])[C@:5]([N:4]([H:11])[H:12])([H:13])[C:6]1([H:14])[H:15],35.83087749999294
MR_302555_1,[C:1]([C:4](/[C:3](=[N:2]/[N:5]([H:8])[H:10])[O:7][H:9])=[N:6]\[H:11])([H:12])([H:13])[H:14]>>[C:1](/[C:4]([C:3]([N:2]([N:5]([H:9])[H:10])[H:8])=[O:7])=[N:6]\[H:11])([H:12])([H:13])[H:14],55.86004999996746
MR_212346_1,[C@@:1]([C:2]([H:12])([H:13])[H:14])([N:3]([O:5][N:4]([H:10])[H:11])[H:8])([O:6][H:7])[H:9]>>[C@@:1]([N:3]([C:2]([H:12])([H:13])[H:14])[H:8])([O:5][N:4]([H:10])[H:11])([O:6][H:7])[H:9],69.48997749997602
MR_584361_2,[C:1]1([H:9])=[N:6][C:3]([O:5][H:7])([H:10])[N:2]([H:8])[O:4]1>>[C:1]1([O:5][H:7])([H:9])[O:4][N:2]([H:8])[C:3]([H:10])=[N:6]1,58.615402499966365
MR_592000_1,[C:1](/[C:2]([N:5]([H:14])[H:15])=[C:6](/[O:7][H:9])[H:16])([N:4]([H:12])[H:13])=[N:8]/[N:3]([H:10])[H:11]>>[C:1]1([N:4]([H:12])[H:13])=[C:2]([N:5]([H:14])[H:15])[C@:6]([O:7][H:9])([H:16])[N:8]1[N:3]([H:10])[H:11],52.22745249997189
MR_550955_0,[C:1]1(/[C:3]([N:4]([H:9])[H:10])=[C:6](\[N:5]([H:11])[H:12])[H:15])([H:8])[C:2]([H:13])([H:14])[O:7]1>>[C:1]([C:2](/[C:3]([N:4]([H:9])[H:10])=[C:6](\[N:5]([H:11])[H:12])[H:15])([H:13])[H:14])(=[O:7])[H:8],49.10312999997714
MR_527201_0,[C:1]([O:4][C:2]([H:11])([H:12])[H:13])([O:5][H:9])([O:6][H:10])/[N:7]=[N:8]\[C:3]([H:14])([H:15])[H:16]>>[C:1]([O:5][H:9])([O:6][H:10])=[N:7][N:8]([C:3]([H:14])([H:15])[H:16])[O:4][C:2]([H:11])([H:12])[H:13],65.88749999997574
MR_397961_1,[C:1](/[C:8](=[C:4](\[N:2](/[C:3]([N:6]([H:12])[H:13])=[N:9]\[H:16])[N:5]([H:10])[H:11])[N:7]([H:14])[H:15])[H:17])([H:18])([H:19])[H:20]>>[C:1]([C:8](/[C:3]([N:6]([H:12])[H:13])=[N:9]\[H:16])(/[C:4](=[N:2]/[N:5]([H:10])[H:11])[N:7]([H:14])[H:15])[H:17])([H:18])([H:19])[H:20],47.393820000012425
MR_299984_0,[C:1]1([C:3]([H:14])([H:15])[H:16])([O:6][H:9])[N:4]([H:11])[C:2]([O:7][H:10])([H:12])[N:8]=[C:5]1[H:13]>>[C:1]([C:3]([H:14])([H:15])[H:16])([N:4]([C:2](=[O:7])[H:12])[H:11])(/[C:5](=[N:8]/[H:10])[H:13])[O:6][H:9],47.10956250001672
MR_234805_1,[C:1](/[C:4]([C:5]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])[N:9]([H:11])[H:13])=[N:8]/[H:12])(=[O:6])[O:7][H:10]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:4](/[C:5]([C:3]([H:17])([H:18])[H:19])=[N:9]/[H:13])=[N:8]/[H:12])([O:6][H:11])[O:7][H:10],66.14540250000232
MR_526454_0,[C:1]([C:3]([H:16])([H:17])[H:18])([N:5]([C:4]([H:19])([H:20])[H:21])[H:12])(/[C:6]([C:2]([O:8][H:11])([H:14])[H:15])=[N:9]\[H:13])[O:7][H:10]>>[C:1]1([C:3]([H:16])([H:17])[H:18])([O:7][H:10])[C:6]([C:2]([O:8][H:11])([H:14])[H:15])([N:5]([C:4]([H:19])([H:20])[H:21])[H:12])[N:9]1[H:13],62.25615750001268
MR_38698_0,[C:1]1([C:3]([H:11])([H:12])[H:13])([H:8])[C:2]([H:9])([H:10])[C:6]1=[C:7]([C:4]([H:14])([H:15])[H:18])[C:5]([H:16])([H:17])[H:19]>>[C:1]1([C:3]([H:11])([H:12])[H:13])([H:8])[C:6](=[C:2]([H:9])[H:10])[C:7]1([C:4]([H:14])([H:15])[H:18])[C:5]([H:16])([H:17])[H:19],51.68403749998845
MR_628068_0,[C:1]([C:2](/[C:5](=[C:6](\[C:3]([H:20])([H:21])[H:22])[N:8]([H:14])[H:15])[N:7]([H:12])[H:13])([H:18])[H:19])([C:4]([O:9][H:11])=[O:10])([H:16])[H:17]>>[C:1]1([H:16])([H:17])[C:2]([H:18])([H:19])[C:5]1([C:6]([C:3]([H:20])([H:21])[H:22])([C:4]([O:9][H:11])=[O:10])[N:8]([H:14])[H:15])[N:7]([H:12])[H:13],59.15756249998864
MR_571171_0,[N:1]([C:2]([O:6][H:9])=[O:7])([C:3]([N:5]([H:12])[H:13])=[O:8])[N:4]([H:10])[H:11]>>[N:1](=[C:2](\[O:6][H:9])[O:7][C:3]([N:5]([H:12])[H:13])=[O:8])\[N:4]([H:10])[H:11],60.48033250003755
